US06919356B2
Part C. Preparation of 1-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-{1-[2-(4-trifluoromethylphenyl)-ethyl]-piperidin-3-ylmethyl}-urea
A mixture of 1-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-piperidin-3-ylmethylurea hydrochloride (50 mg, 142 μmol), toluene-4-sulfonic acid 2-(4-trifluoromethyl-phenyl)-ethyl ester (90% pure, 55 mg, 142 μmol), triethylamine (60 μL, 426 μmol) and acetonitrile (1.5 mL) was heated at reflux for 16.5 hours and cooled to room temperature. The mixture was concentrated, and the residue was purified by flash chromatography, eluting with 3% methanol in dichloromethane containing 0.3% aqueous ammonium hydroxide, to provide a white amorphous solid (30 mg, 45%). 1H NMR (300 MHz, CDCl3) δ8.26 (s, !H), 7.87 (d, J=8 Hz, 1H), 7.76 (s, 1H), 7.51 (d, J=8 Hz, 1H), 7.39 (t, J=8 Hz, 1H), 7.28 (d, J=8 Hz, 2H), 7.20 (d, J=8 Hz, 1H), 6.06 (bm, 1H), 4.15 (s, 3H), 3.23 (t, J=6 Hz, 2H), 3.03 (m, 1H), 2.86 (m, 2H), 2.61 (m, 2H), 2.1-1.5 (m, 7H), 1.05 (m, 1H). Mass spec (ES+) m/z 488.5 (M+H+, 100%).

reactant | 1-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-piperidin-3-ylmethylurea hydrochloride | 142 μmol, 50 mg | Cl.CN1N=NN=C1C=1C=C(C=CC1)NC(=O)NCC1CNCCC1
reactant | toluene-4-sulfonic acid 2-(4-trifluoromethyl-phenyl)-ethyl ester | 142 μmol, 55 mg | FC(C1=CC=C(C=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C16H15F3O3S
reactant | triethylamine | 426 μmol, 60 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 1-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-{1-[2-(4-trifluoromethylphenyl)-ethyl]-piperidin-3-ylmethyl}-urea | 30 mg, 45% | CN1N=NN=C1C=1C=C(C=CC1)NC(=O)NCC1CN(CCC1)CCC1=CC=C(C=C1)C(F)(F)F | C24H28F3N7O
